US08222246B2
N-Cyclopropyl-6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide
Trimethylaluminium solution (2 M in toluene, 0.8 mL, 1.60 mmol) was added to a solution of cyclopropylamine (62.0 mg, 1.06 mmol) in dioxane (5 mL). The mixture was stirred for 1 h at 50° C. Then a solution of 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.27 mmol) in dioxane (5 mL) was added. The reaction mixture was stirred overnight at 85° C. The dioxane was removed by distillation. The remaining material was purified by chromatography (silica, ethyl acetate:heptane=8:2 to 1:0) to afford the title compound (27 mg, 25%) as a colourless oil. MS: m/e=402.3 [M+H]+.

reactant | Trimethylaluminium | 1.60 mmol, 2 M, 0.8 mL | C[Al](C)C
reactant | cyclopropylamine | 1.06 mmol, 62.0 mg | C1(CC1)N | C3H7N
reactant | 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.27 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC(=C(C=C1)F)F)=O | C18H14F2N2O5
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide | 27 mg, 25% | C1(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC(=C(C=C1)F)F)=O | C20H17F2N3O4
